US06225306B1
(2R,11aS)-2-(t-Butyldimethylsilyloxy)-1,2,3,10,11,11a-Hexahydro-5H-Pyrrolo[2,1-c][1,4]Benzodiazepin-5-One
To a solution of 9.0 g of (2S, 4R)-4-(tert-butyldimethylsilyloxy)-1-(2-nitrobenzoyl) proline methyl ester in 90 ml of dichloromethane, there was dropwise added 44 ml of a 1M solution of diisobutyl aluminum hydride in dichloromethane at −70° C. over 30 minutes in a nitrogen gas atmosphere and then the mixture was stirred at −70° C. for one hour. A mixture containing 1 ml of methanol and 1 ml of dichloromethane was added to the reaction solution at −60° C., then 10 ml of a saturated aqueous ammonium chloride solution was added thereto and the mixture was stirred at room temperature for one hour. The precipitates separated out were filtered off, the filtrate was washed with water, dried and concentrated under reduced pressure. The resulting oily substance was dissolved in 50 ml of methanol, followed by addition of 4.5 g of a 10% palladium-carbon catalyst to the solution and stirring at room temperature for 15 hours in a hydrogen gas atmosphere. The catalyst present in the reaction solution was filtered off and the filtrate was concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography, followed by elution with methanol/chloroform. (1/100) to thus give 3.7 g (yield 51.2%) of the title compound.

reactant | (2S, 4R)-4-(tert-butyldimethylsilyloxy)-1-(2-nitrobenzoyl) proline methyl ester | 9.0 g | COC([C@H]1N(C[C@@H](C1)O[Si](C)(C)C(C)(C)C)C(C1=C(C=CC=C1)[N+](=O)[O-])=O)=O | C19H28N2O6Si
reactant | diisobutyl aluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | methanol | 1 ml | CO | CH4O
reactant | ammonium chloride | 10 ml | [Cl-].[NH4+]
solvent | dichloromethane | 90 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | (2R,11aS)-2-(t-Butyldimethylsilyloxy)-1,2,3,10,11,11a-Hexahydro-5H-Pyrrolo[2,1-c][1,4]Benzodiazepin-5-One | 3.7 g, yield 51.2% | [Si](C)(C)(C(C)(C)C)O[C@@H]1C[C@H]2CNC3=C(C(N2C1)=O)C=CC=C3 | C18H28N2O2Si
